US06534665B1
Synthesis of 2,2-bis(cyclopentadienyl)-5-trimethylsiloxypentane
Freshly distilled cyclopentadiene (61.5 g, 0.93 mol) was placed in a one liter Schlenk flask and dissolved in dry THF (500 ml). n-BuLi 2.5 M in hexane (372 ml 0.93 mol) was slowly added to this solution at −78° C., yielding a white precipitate. The suspension was left to reach room temperature and then heated to 65° C. for one hour. The reaction mixture is thermostated at 20° C. and a solution of 5-trimethylsiloxypentan-2-one (72.5 g, 0.42 mol) in THF (100 ml) was slowly added. The yellow suspension obtained was heated at reflux for 16 h. The resulting brown suspension was filtered and the solid washed with hexane several times. Solvents were removed under vacuum and the orange oil obtained was distilled at 10−3 mbar and 84-89° C., obtaining a yellow oil (20.5 g, 17% yield). 1H NMR (CDCl3): Λ6.40-6.02 (C5H5, 6H), 3.55 (CH2, m, 2H), 2.97, 2.80 and 2.78 (C5H5, 4H), 1.82 (CH2, m, 2H), 1.42 (CH2, m, 2H), 1.40 (CH3, s, 3H), 0.10 ((CH3)3, s, 9H).

reactant | cyclopentadiene | 0.93 mol, 61.5 g | C1=CC=CC1 | C5H6
reactant | n-BuLi | 2.5 M | [Li]CCCC
reactant | hexane | 0.93 mol, 372 ml | CCCCCC | C6H14
reactant | 5-trimethylsiloxypentan-2-one | 0.42 mol, 72.5 g | C[Si](OCCCC(C)=O)(C)C | C8H18O2Si
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2,2-bis(cyclopentadienyl)-5-trimethylsiloxypentane | 20.5 g, 17% yield | C1(C=CC=C1)C(C)(CCCO[Si](C)(C)C)C1C=CC=C1 | C18H28OSi
